US04026936
99 G. (0.487 mol) of 2-(p-chlorobenzyl)pyridine was added to 500 ml. of fuming nitric acid cooled to 10 ° while maintaining the temperature at <10° for 2 hours. The resulting mixture was poured into 800 ml. of ice, neutralized with ammonium hydroxide and allowed to stand overnight at room temperature. The resulting solid was collected, washed with water and air dried to give 2-(4-chloro-3-nitrobenzyl)pyridine as off-white prisms, m. 58°-60° C. (aq. ethanol).

reactant | 2-(p-chlorobenzyl)pyridine | 0.487 mol | ClC1=CC=C(CC2=NC=CC=C2)C=C1 | C12H10ClN
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-(4-chloro-3-nitrobenzyl)pyridine | ClC1=C(C=C(CC2=NC=CC=C2)C=C1)[N+](=O)[O-] | C12H9ClN2O2
